US08022205B2
3-(3-Methoxybenzoyl)dihydropyran-2-one
A solution of 6-valerolactone (2.0 g, 20 mmol) in anhydrous tetrahydrofuran (100 ml) was cooled to −78° C. under a nitrogen atmosphere, and 3-methoxybenzoyl chloride (3.58 g, 21 mmol) and lithium hexamethyldisilazide (40 ml, 1M tetrahydrofuran solution, 40 mmol) were added sequentially. Stirring was carried out for 2 hours, followed by treatment with saturated sodium bicarbonate water. The reaction mixture was extracted with ethyl acetate (100 ml), followed by washing with brine, and subsequently, the solvent was distilled off under reduced pressure, to obtain a brown crude product. Purification by silica gel column chromatography (hexane/ethyl acetate=1/1) afforded the desired compound as a pale yellow liquid.

reactant | 3-methoxybenzoyl chloride | 21 mmol, 3.58 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | lithium hexamethyldisilazide | 40 mmol, 1M, 40 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(3-Methoxybenzoyl)dihydropyran-2-one | COC=1C=C(C(=O)C2C(OC=CC2)=O)C=CC1 | C13H12O4
